US06002008
A mixture of 0.148 g of 4-chloro-5,8-dimethoxy-3-quinolinecarbonitrile, 0.146 g of N,N-dimethyl-1,3-phenylenediamine dihydrochloride, 0.2 ml of pyridine, and 5 ml of ethoxyethanol was stirred under nitrogen, at reflux temperature for 30 minutes. Then the mixture was partitioned between ethyl acetate and saturated sodium chloride solution. The organic layer was dried and concentrated in vacuo. The residue thus obtained was chromatographed on silica gel eluting with ethyl acetate. Solvent was removed from product fractions giving 0.160 g of 4-(3-dimethylamino-phenylamino)-5,8-dimethoxy-quinoline-3-carbonitrile as a solid, mp 103-105° C.; mass spectrum (EI, m/e): M 348.1588.

reactant | 4-chloro-5,8-dimethoxy-3-quinolinecarbonitrile | 0.148 g | ClC1=C(C=NC2=C(C=CC(=C12)OC)OC)C#N | C12H9ClN2O2
reactant | N,N-dimethyl-1,3-phenylenediamine dihydrochloride | 0.146 g | Cl.Cl.CN(C1=CC(=CC=C1)N)C
reactant | ethoxyethanol | 5 ml | C(C)OC(C)O | C4H10O2
solvent | pyridine | 0.2 ml | N1=CC=CC=C1 | C5H5N
product | 4-(3-dimethylamino-phenylamino)-5,8-dimethoxy-quinoline-3-carbonitrile | 0.160 g | CN(C=1C=C(C=CC1)NC1=C(C=NC2=C(C=CC(=C12)OC)OC)C#N)C | C20H20N4O2
